US09255110B2
Thionyl chloride (1 mL) was added to 3,3-diethoxy-propionic acid (Eur. J. Org. Chem. 2001, 2041) (0.20 g, 1.10 mmol) and the resulting mixture was heated at 80° C. for 1 hour. The reaction mixture was then evaporated under reduced pressure and the residue was dissolved in dichloromethane (2 mL). The resulting solution was added to a mixture of 3-methoxy-4-nitro-phenylamine (0.13 g, 0.77 mmol) and pyridine (0.12 g, 1.54 mmol) in dichloromethane (5 mL) at 0° C. The reaction mixture was stirred at room temperature overnight and then the pH was then neutralized by addition of an aqueous solution of hydrochloric acid (6 M). The resulting mixture was extracted twice with ethyl acetate and the combined organic extracts were washed with water, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 225 mg of (E)-3-ethoxy-N-(3-methoxy-4-nitro-phenyl)-acrylamide as an orange solid.

reactant | Thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3,3-diethoxy-propionic acid | 1.10 mmol, 0.20 g | C(C)OC(CC(=O)O)OCC | C7H14O4
reactant | 3-methoxy-4-nitro-phenylamine | 0.77 mmol, 0.13 g | COC=1C=C(C=CC1[N+](=O)[O-])N | C7H8N2O3
reactant | pyridine | 1.54 mmol, 0.12 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (E)-3-ethoxy-N-(3-methoxy-4-nitro-phenyl)-acrylamide | 225 mg | C(C)O/C=C/C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])OC | C12H14N2O5
